US07115645B2
3-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]propanoic acid methyl ester
45 mg of 3-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]propanoic acid was dissolved in 0.5 ml of N,N-dimethylformamide and mixed with 41 mg of cesium carbonate and 10 μl of methyl iodide. It was allowed to stir for 2 days, diluted with dichloromethane, filtered, the filtrate was concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 3-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]propanoic acid | 45 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCC(=O)O)C2=CC=CC=C2 | C22H18N2O3
reactant | cesium carbonate | 41 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 10 μl | CI | CH3I
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]propanoic acid methyl ester | COC(CCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C23H20N2O3
